US05998429
F. N-(3-Methoxyphenyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester
3-Quinuclidinol and 3-methoxyphenyl isocyanate were used. The reaction solution was evaporated under reduced pressure, and the residual solid was recrystallized from ethyl acetate to afford the title compound (60%) as a white solid: mp 130.5-132.0° C.; FAB LRMS m /z (relative intensity, %) 278 (18), 277 (MH+, 100).

reactant | 3-Quinuclidinol | N12CC(C(CC1)CC2)O | C7H13NO
reactant | 3-methoxyphenyl isocyanate | COC=1C=C(C=CC1)N=C=O | C8H7NO2
product | N-(3-Methoxyphenyl)carbamic Acid 1-azabicyclo[2.2.2]octan-3-yl Ester | 60% | N12CC(C(CC1)CC2)OC(NC2=CC(=CC=C2)OC)=O | C15H20N2O3
